US06107291
The 2-benzhydryloxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-3-carboxylic acid benzyl ester (430 mg, 0.69 mmoL) was dissolved in a THF:H2O (1:1, 10 mL) mixture and was then treated with LiOH (35 mg, 0.82 mmoL). This solution was stirred overnight at ambient temperature. The THF was removed in vacuo and the resulting mixture was acidified with 2 M aqueous citric acid. The product was extracted into diethyl ether, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (silica, 10% methanol in chloroform) to give 7-benzhydryloxy-1-(4-methoxybenzenesulfonyl)-2,5,5a,8a-tetrahydro-1H-pyrrolo[3,4-b]azepine-6,8-dione; MS: (M+H)+ 519.

reactant | 2-benzhydryloxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-3-carboxylic acid benzyl ester | 430 mg | C(C1=CC=CC=C1)OC(=O)C1C(N(CC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(NOC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H34N2O7S
reactant | LiOH | 35 mg | [Li+].[OH-]
solvent | THF H2O | 10 mL | C1CCOC1.O
product | 7-benzhydryloxy-1-(4-methoxybenzenesulfonyl)-2,5,5a,8a-tetrahydro-1H-pyrrolo[3,4-b]azepine-6,8-dione | C(C1=CC=CC=C1)(C1=CC=CC=C1)ON1C(C2N(CC=CCC2C1=O)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C28H26N2O6S
